US07560558B2
Compound 298: 4-(5-Chloro-quinolin-6-yloxy)-6,7-dimethoxyquinoline
6-Hydroxy-5-iodo-quinoline (100 mg), 4-chloro-6,7-dimethoxyquinoline (215 mg), and 4-dimethylaminopyridine (367 mg) were suspended in o-dichlorobenzene (12 ml), and the suspension was stirred at 120° C. for 5 hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (20 mg, yield 12%).

reactant | 6-Hydroxy-5-iodo-quinoline | 100 mg | OC=1C(=C2C=CC=NC2=CC1)I | C9H6INO
reactant | 4-chloro-6,7-dimethoxyquinoline | 215 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | o-dichlorobenzene | 12 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | 4-dimethylaminopyridine | 367 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(5-Chloro-quinolin-6-yloxy)-6,7-dimethoxyquinoline | 20 mg, yield 12% | ClC1=C2C=CC=NC2=CC=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C20H15ClN2O3
